US08334301B2
N-{3-[(methylamino)methyl]-1-phenyl-1H-pyrazol-5-yl}-N-phenylacetamide 0.5 fumarate
tert-Butyl({5-[acetyl(phenyl)amino]-1-phenyl-1H-pyrazol-3-yl}methyl)methylcarbamate (83 mg) was dissolved in ethyl acetate (2 mL) and ethanol (1 mL), a 4 mol/L hydrogen chloride-ethyl acetate solution (3 mL) was added, and the mixture was stirred at room temperature for 3 hr. The reaction mixture was concentrated under reduced pressure, saturated aqueous sodium hydrogen carbonate solution was added to the residue, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was dissolved in ethyl acetate (3 mL), and the mixture was added to a solution of fumaric acid (23 mg) in ethanol (5 mL). The solvent was evaporated under reduced pressure, and the residue was recrystallized from a mixed solvent of ethyl acetate and ethanol to give the title compound as colorless crystals (yield 32 mg, yield 43%).

reactant | tert-Butyl({5-[acetyl(phenyl)amino]-1-phenyl-1H-pyrazol-3-yl}methyl)methylcarbamate | 83 mg | C(C)(C)(C)OC(N(C)CC1=NN(C(=C1)N(C1=CC=CC=C1)C(C)=O)C1=CC=CC=C1)=O | C24H28N4O3
reactant | hydrogen chloride-ethyl acetate | 4 mol/L, 3 mL | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | N-{3-[(methylamino)methyl]-1-phenyl-1H-pyrazol-5-yl}-N-phenylacetamide | yield 32 mg, yield 43% | CNCC1=NN(C(=C1)N(C(C)=O)C1=CC=CC=C1)C1=CC=CC=C1 | C19H20N4O
